US09034866B2
10-bromo-3-cyclopropyl-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford 14.2 mg (31%) of 3-cyclopropyl-9-fluoro-10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. M+1=425.0.

reactant | 10-bromo-3-cyclopropyl-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3CC3)C1)F | C15H13BrFN3O2
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | 3-cyclopropyl-9-fluoro-10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 14.2 mg, 31% | C1(CC1)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#C[C@]1(C(N(CC1)C)=O)O)C(=O)N | C22H21FN4O4
